US07115750B1
N-(4-Methoxyphenyl)-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide
WSCD (0.11 ml) was added to DMF solution (2 ml) of 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate (170 mg), 4-methoxyaniline (53 mg), HOBt (70 mg) and DMAP (60 mg) at room temperature, which was stirred for 12 hours. 10% aqueous potassium carbonate solution and water was added to the reaction mixture, and extraction was conducted using a mixed solution of THF and ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent: THF), and recrystallized (THF-IPE) to give the titled compound (140 mg).

reactant | 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate | 170 mg | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)[O-])C=C1
reactant | 4-methoxyaniline | 53 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | HOBt | 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | DMAP | 60 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(4-Methoxyphenyl)-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide | 140 mg | COC1=CC=C(C=C1)NC(C1=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCN1CCCCC1)=O | C32H38N2O3
